### ISSUE TITLE
surprising interaction of dot-ident and `apply`

### ISSUE THREAD

**Issue by digama0** [leanprover/lean4#1719]
```lean
example (h : P) : P ∨ Q := by
  apply .inl
  -- type mismatch
  --   Or.inl
  -- has type
  --   ?m.23 → ?m.23 ∨ ?m.24 : Prop
  -- but is expected to have type
  --   P ∨ Q : Prop
  assumption
```
The error message clearly indicates that it was able to resolve that the identifier is `Or.inl`, but it then gives an error message suggesting that it inserted the wrong number of underscores. `apply Or.inl` works as expected.
